US05455273
m) trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-ethylcyclohexylamine
from 4-(4-tert.butoxycarbonyl-methylaminomethyl-phenyl)cyclohexanone and ethylamine. Colourless oil. Rf value: 0.45 (alumina, petroleum ether/ethyl acetate=1:1, v:v).

reactant | 4-(4-tert.butoxycarbonyl-methylaminomethyl-phenyl)cyclohexanone | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)C1CCC(CC1)=O)CNC | C19H27NO3
reactant | ethylamine | C(C)N | C2H7N
product | trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-ethylcyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NCC)CNC | C21H34N2O2
